US08957080B2
To a sealed tube was added 3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-3-oxo-propanenitrile (507 mg, 1.07 mmol), tert-butyl (2S)-2-formylpyrrolidine-1-carboxylate (0.2, mL, 1.1 mmol), piperidine (0.05 mL, 0.54 mmol) and ethanol (3 mL). The tube was capped and heated to 100° C. for 16 hrs. The reaction was not complete so an additional amount of tert-butyl (25)-2-formylpyrrolidine-1-carboxylate (732 mg, 3 eq) was added and heating was continued for 4 hrs at 110° C. The reaction was cooled and concentrated then dissolved in DCM (50 mL) and washed with water (50 mL) and brine. The organic layer was dried (MgSO4), filtered and concentrated. The resulting material was purified by Isolera (250 g column; 2%-3% MeOH/DCM) to provide 403 mg (57%) of tert-butyl (2S)-2-[3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-2-cyano-3-oxo-prop-1-enyl]pyrrolidine-1-carboxylate as a solid.

reactant | 3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-3-oxo-propanenitrile | 1.07 mmol, 507 mg | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H]2N(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | tert-butyl (2S)-2-formylpyrrolidine-1-carboxylate | C(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | piperidine | 0.54 mmol, 0.05 mL | N1CCCCC1 | C5H11N
reactant | tert-butyl (25)-2-formylpyrrolidine-1-carboxylate | 732 mg, 3 eq | C(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | tert-butyl (2S)-2-[3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-2-cyano-3-oxo-prop-1-enyl]pyrrolidine-1-carboxylate | 403 mg, 57% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H]2N(CCC2)C(C(=C[C@H]2N(CCC2)C(=O)OC(C)(C)C)C#N)=O | C35H37FN8O4
